US07906517B2
Trifluoromethanesulfonic acid 5-methoxy-2-nitro-4-trifluoromethyl-phenyl ester (2.6 g) is dissolved in 1,4-dioxane (20 ml) and thereto is added 5-isopropyl-2-methoxybenzene boronic acid (1.5 g), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (575 mg) and cesium carbonate (3.44 g), and the mixture is stirred under nitrogen atmosphere at 80° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and a saturated aqueous sodium bicarbonate solution, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=49:1→17:3) to give 5′-isopropyl-5,2′-dimethoxy-2-nitro-4-trifluoromethyl-biphenyl (2.35 g). MS (m/z): 370 [M+H]+

reactant | Trifluoromethanesulfonic acid 5-methoxy-2-nitro-4-trifluoromethyl-phenyl ester | 2.6 g | COC=1C(=CC(=C(C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H5F6NO6S
reactant | 5-isopropyl-2-methoxybenzene boronic acid | 1.5 g | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
reactant | cesium carbonate | 3.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5′-isopropyl-5,2′-dimethoxy-2-nitro-4-trifluoromethyl-biphenyl | 2.35 g | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C(=C1)OC)C(F)(F)F)[N+](=O)[O-])OC | C18H18F3NO4
